US04739049
7-Chloro-1,3-dihydro-2-nitromethylene-5-phenyl-2H-1,4-benzodiazepine
To a mixture of 1.0 ml. of nitromethane and 5 ml. of dry dimethylformamide was added 53 mg. of a 50% dispersion of sodium hydride in mineral oil (1.1 mmole hydride). After 1 hour at room temperature, under nitrogen, 489 mg. (1.0 mmole) of 7-chloro-2-di-(morpholino)phosphinyloxy-5-phenyl-3H-1,4-benzodiazepine was added. After stirring at room temperature for 2 hours, dimethylformamide was evaporated (about 80°). The residue was partitioned between methylene chloride and an aqueous layer which is acidified with a slight excess of acetic acid. The methylene chloride layer was dried (Na2SO4) and evaporated. Separation of the product mixture by preparative tlc (silica gel, developed in 10% methanol in ethylacetate v/v) afforded pure final product, which upon crystallization from methanol, had a m.p. of 178°-180°.

reactant | nitromethane | [N+](=O)([O-])C | CH3NO2
reactant | sodium hydride | [H-].[Na+]
reactant | hydride | 1.1 mmole | [H-]
reactant | 7-chloro-2-di-(morpholino)phosphinyloxy-5-phenyl-3H-1,4-benzodiazepine | 1.0 mmole | ClC=1C=CC2=C(C(=NCC(=N2)OP(=O)(N2CCOCC2)N2CCOCC2)C2=CC=CC=C2)C1 | C23H26ClN4O4P
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 7-Chloro-1,3-dihydro-2-nitromethylene-5-phenyl-2H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(N2)=C[N+](=O)[O-])C2=CC=CC=C2)C1 | C16H12ClN3O2
